US04985419
Triethylamine (30 cc) is added to a solution of 7-chloro-10-[(2RS)-1-hydroxy-2-propyl]-2-phenothiazinecarbonitrile (40 g) in methylene chloride (400 cc). The mixture is cooled to 0° C. and then treated dropwise in the course of 1 hour with methanesulphonyl chloride (16.6 cc). Distilled water (1 liter) is then added, after which the constituents of the mixture are allowed to settle and the organic phase is separated and washed with distilled water (500 cc). The organic phase is then dried over magnesium sulphate, filtered and concentrated under reduced pressure (30 mm Hg; 4 kPa) to a residual volume of 100 cc. Isopropyl ether (150 cc) is then introduced slowly and the mixture is left stirred for 30 minutes. Isopropyl ether (300 cc) is then added slowly and the suspension is stirred for 48 hours. The precipitate is filtered off, washed with isopropyl ether (2×50 cc) and dried at 40° C. under reduced pressure (5 mm Hg; 0.67 kPa) to give (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate (34.53 g), m.p. 132° C.

reactant | Triethylamine | 30 cc | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-10-[(2RS)-1-hydroxy-2-propyl]-2-phenothiazinecarbonitrile | 40 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CO)C)C#N | C16H13ClN2OS
reactant | methanesulphonyl chloride | 16.6 cc | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 1 liter | O | H2O
solvent | methylene chloride | 400 cc | C(Cl)Cl | CH2Cl2
product | (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate | 34.53 g | CS(=O)(=O)OCC(C)N1C2=CC=C(C=C2SC=2C=CC(=CC12)C#N)Cl | C17H15ClN2O3S2
